US05851546
Methacryloyl chloride was reacted with β-alanine to give N-methacryloyl β-alanine which was further reacted with p-nitro aniline to obtain N-methacryloyl β-alanyl p-nitro anilide. N-isobutyryl β-alanyl 2-amino pyridine was used as the print molecule, 0.5 gm (0.0021 mol) N-isobutyryl β-alanyl 2-amino pyridine, 0.468 gm (0.0021 mol) N-methacryloyl histidine, and 0.124 gm (0.0021 mol) CoCl2.6H2O were placed in 5 ml methanol and stirred for 1 hour. Methanol was evaporated under reduced pressure. The complex was diluted with 3.9 gm 2-hydroxyethyl methacrylate, 0.8 ml t-butyl hydroperoxide was added, and the mixture polymerized at 65° C. for 16 hours.

reactant | Methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | β-alanine | NCCC(=O)O | C3H7NO2
product | N-methacryloyl β-alanine | C(C(=C)C)(=O)NCCC(=O)O | C7H11NO3
